US07423159B2
A mixture of ethyl (4-aminophenyl)acetate (0.88 g), (2E)-3-[5-(4-fluorophenyl)-1-methyl-1H-pyrazol-4-yl]acrylic acid (1.0 g), 1-hydroxy-1H-1,2,3-benzotriazole hydrate (0.81 g), 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (1.02 g) and N,N-dimethylformamide (30 mL) was stirred at room temperature for 15 hrs. Water was poured into the reaction mixture, and the mixture was extracted with ethyl acetate. The organic layer was washed successively with 1N hydrochloric acid, saturated aqueous sodium hydrogen carbonate and saturated brine, dried over anhydrous magnesium sulfate, and concentrated to give ethyl [4-({(2E)-3-[5-(4-fluorophenyl)-1-methyl-1H-pyrazol-4-yl]prop-2-enoyl}amino)phenyl]acetate as colorless crystals (1.49 g, yield 89%). Recrystallization thereof from ethyl acetate-hexane gave colorless prism crystals. melting point: 177-178° C.

reactant | ethyl (4-aminophenyl)acetate | 0.88 g | NC1=CC=C(C=C1)CC(=O)OCC | C10H13NO2
reactant | (2E)-3-[5-(4-fluorophenyl)-1-methyl-1H-pyrazol-4-yl]acrylic acid | 1.0 g | FC1=CC=C(C=C1)C1=C(C=NN1C)/C=C/C(=O)O | C13H11FN2O2
reactant | 1-hydroxy-1H-1,2,3-benzotriazole hydrate | 0.81 g | O.ON1N=NC2=C1C=CC=C2
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 1.02 g | Cl.C(C)N=C=NCCCN(C)C
solvent | Water | O | H2O
solvent | N,N-dimethylformamide | 30 mL | CN(C=O)C | C3H7NO
product | ethyl [4-({(2E)-3-[5-(4-fluorophenyl)-1-methyl-1H-pyrazol-4-yl]prop-2-enoyl}amino)phenyl]acetate | 1.49 g, yield 89% | FC1=CC=C(C=C1)C1=C(C=NN1C)/C=C/C(=O)NC1=CC=C(C=C1)CC(=O)OCC | C23H22FN3O3
